US04723989
A solution of 13 g of monoethyl 2,3-dimethylfumarate chloride in 20 ml of methylene chloride was added dropwise, while stirring and cooling with ice, to a solution of 12 g of 2-amino-2,3-dimethyl-butyric acid amide and 12 ml of triethylamine in 80 ml of methylene chloride. The mixture was stirred for 2 hours at room temperature, the resulting solution was extracted with water, with 2N hydrochloric acid and again with water, then dried and evaporated. The residue was triturated with diethyl ether, suction-filtered and recrystallized from a little ethanol. 8.0 g (41% of theory) of monoethyl-2,3-dimethylfumarate-N-(1-aminocarbonyl-1-methylisobutyl)-amide were obtained, m.p. 122°-125° C.

reactant | monoethyl 2,3-dimethylfumarate chloride | 13 g | [Cl-].C/C(/C(=O)OCC)=C(\C(=O)[O-])/C
reactant | 2-amino-2,3-dimethyl-butyric acid amide | 12 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | monoethyl-2,3-dimethylfumarate N-(1-aminocarbonyl-1-methylisobutyl)-amide | 8.0 g, 41% | C(C)OC(\C(=C(\C(=O)[O-])/C)\C)=O.NC(=O)C(C(C)C)(C)[NH-] | InChI=1S/C8H12O4.C6H13N2O/c1-4-12-8(11)6(3)5(2)7(9)10;1-4(2)6(3,8)5(7)9/h4H2,1-3H3,(H,9,10);4,8H,1-3H3,(H2,7,9)/q;-1/p-1/b6-5+;
